US06528525B1
(a) Ethyl 3-(4-benzyloxyphenyl)-2-(4-cyanophenoxy)propionate
In a similar manner to that described in Example 122, a reaction was carried out using ethyl 3-(4-benzyloxyphenyl)lactate (1.01 g), which is the product of Reference example 1(b), 4-cyanophenol (481 mg), triphenylphosphine (1.06 g) and solution of diethylazodicarboxylate in toluene (40%, 0.73 ml) and the reaction mixture was treated to afford the desired compound (619 mg) as a colorless oil.

reactant | ethyl 3-(4-benzyloxyphenyl)lactate | 1.01 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)CC(C(=O)OCC)O | C18H20O4
reactant | 4-cyanophenol | 481 mg | C(#N)C1=CC=C(C=C1)O | C7H5NO
reactant | triphenylphosphine | 1.06 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethylazodicarboxylate | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
solvent | toluene | 0.73 ml | C1(=CC=CC=C1)C | C7H8
product | Ethyl 3-(4-benzyloxyphenyl)-2-(4-cyanophenoxy)propionate | 619 mg | C(C1=CC=CC=C1)OC1=CC=C(C=C1)CC(C(=O)OCC)OC1=CC=C(C=C1)C#N | C25H23NO4
